US07855290B2
3-(Azetidin-1-yl)azetidine dihydrochloride
To a solution of 3-(azetidin-1-yl)-1-benzhydrylazetidine (643 mg) in ethyl acetate was added a 4N solution of hydrochloric acid in ethyl acetate (1.16 ml), followed by concentration. The resultant residue was dissolved in methanol (65 ml), and 20% palladium hydroxide (811 mg) was added thereto. This was stirred at room temperature under a pressurized hydrogen atmosphere (0.3 to 0.4 MPa) for 4 hr. The catalyst was removed by filtration, and the filtrate was concentrated. Hexane was added to the residue to suspend a solid. The residue after removing a supernatant by a pipette was concentrated under reduced pressure to provide a crude product of the titled compound as a pale yellow oil (471.2 mg).

reactant | 3-(azetidin-1-yl)-1-benzhydrylazetidine | 643 mg | N1(CCC1)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H22N2
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.16 ml | C(C)(=O)OCC | C4H8O2
product | 3-(Azetidin-1-yl)azetidine dihydrochloride | 471.2 mg | Cl.Cl.N1(CCC1)C1CNC1 | InChI=1S/C6H12N2.2ClH/c1-2-8(3-1)6-4-7-5-6;;/h6-7H,1-5H2;2*1H
